US07060836B2
tert-Butyl 4-(4-pyridinyl)-1-piperidinecarboxylate
Dichloromethane (0.1 ml) was added to a suspension of zinc (2 g, 31.7 mmol) in N,N-dimethylformamide (5 ml), and the mixture warmed until gas evolution occurred. tert-Butyl 4-iodo-1-piperidinecarboxylate (EP 1078928) (4.9 g, 15.8 mmol), and hydroquinone (35 mg, 0.32 mmol) in N,N-dimethylformamide (5 ml) was added, and the mixture warmed until an exotherm was evident. 4-Bromopyridine (1 g, 6.33 mmol), tris(dibenzylideneacetone)dipalladium (0) (73 mg, 0.127 mmol) and tri(2-furyl)phosphine (59 mg, 0.25 mmol) in N,N-dimethylformamide (5 ml) were added, and the reaction stirred at 60° C. for 30 minutes. The cooled mixture was partitioned between water (100 ml) and diethyl ether (50 ml), and the layers separated. The aqueous phase was extracted with diethyl ether (2×50 ml), the combined organic solutions washed with brine (50 ml), dried (MgSO4) and evaporated under reduced pressure, to give a brown oil. This was purified by column chromatography on silica gel using ethyl acetate:pentane (50:50) as eluant to afford the title compound as a yellow oil, 1.1 g.

reactant | tert-Butyl 4-iodo-1-piperidinecarboxylate | 15.8 mmol, 4.9 g | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | hydroquinone | 0.32 mmol, 35 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 4-Bromopyridine | 6.33 mmol, 1 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | tri(2-furyl)phosphine | 0.25 mmol, 59 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 31.7 mmol, 2 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.127 mmol, 73 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Dichloromethane | 0.1 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-pyridinyl)-1-piperidinecarboxylate | N1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
